US05250527
5-bromo-2,3-lutidine-N-oxide (30.31 g) was added in portions to phosphorus oxychloride (41.3 ml) at 30°-40°. The mixture was heated to 50°, when an exothermic reaction raised the temperature to reflux. After 30 minutes the solution was cooled and poured onto ice to give a white solid, which was filtered off and discarded. The filtrate was extracted with ether then treated with 40% aqueous sodium hydroxide to pH 7, and extracted again with ether. The latter extract was dried (MgSO4) and stripped to give 5-bromo-4-chloro-2,3-lutidine, 12.0 g as a low melting solid.

reactant | 5-bromo-2,3-lutidine-N-oxide | 30.31 g | BrC=1C=C(C(=[N+](C1)[O-])C)C | C7H8BrNO
reactant | phosphorus oxychloride | 41.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-bromo-4-chloro-2,3-lutidine | BrC=1C(=C(C(=NC1)C)C)Cl | C7H7BrClN
